US05728835
4-Valerylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide
Using 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide (238.0 mg, 0.50 mmol) and valeryl chloride (0.071 ml, 0.60 mmol), the procedure of Inventive Example 94 was repeated to obtain 232.0 mg (83.0%) of the title compound in a yellow amorphous form.

reactant | 4-amino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide | 0.50 mmol, 238.0 mg | NC1=CC=C(C(=O)N(C2=CC(=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C28H30FN3O3
reactant | valeryl chloride | 0.60 mmol, 0.071 ml | C(CCCC)(=O)Cl | C5H9ClO
product | 4-Valerylamino-N-{2-[4-(4-fluorobenzoyl)piperidino]ethyl}-N-(3-methoxyphenyl)benzamide | 232.0 mg, 83.0% | C(CCCC)(=O)NC1=CC=C(C(=O)N(C2=CC(=CC=C2)OC)CCN2CCC(CC2)C(C2=CC=C(C=C2)F)=O)C=C1 | C33H38FN3O4
